US04795751
In the same manner as described in Example 1 (1), a mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, cis-2,6-dimethylpiperazine, and dimethylformamide was stirred at room temperature for 24 hours to give 5-amino-1-cyclopropyl-6,8-difluoro-7-(cis-3,5-dimethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, m.p. 258°-260° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | cis-2,6-dimethylpiperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-amino-1-cyclopropyl-6,8-difluoro-7-(cis-3,5-dimethyl-1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H](N[C@H](C1)C)C)F)C1CC1)C(=O)O)=O | C19H22F2N4O3
